US06784192B2
1-[(2-Methoxy-3-pyridyl)methyl]-4-(2-oxo-2-phenylethyl)piperidine
2.2 g of 1-[(2-methoxy-3-pyridyl)methyl]-4-(2-hydroxy-2-phenylethyl)piperidine and 8.6 g of manganese dioxide were suspended in 35 ml of toluene, and the mixture was heated under reflux for 2 hours. The reaction solution was filtered, and the filtrate was evaporated. Then, the residue was purified and separated by silica gel column chromatography (ethyl acetate), to give 1.54 g of the title compound as a pale yellow oil.

reactant | 1-[(2-methoxy-3-pyridyl)methyl]-4-(2-hydroxy-2-phenylethyl)piperidine | 2.2 g | COC1=NC=CC=C1CN1CCC(CC1)CC(C1=CC=CC=C1)O | C20H26N2O2
solvent | toluene | 35 ml | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 8.6 g | [O-2].[O-2].[Mn+4]
product | 1-[(2-Methoxy-3-pyridyl)methyl]-4-(2-oxo-2-phenylethyl)piperidine | 1.54 g | COC1=NC=CC=C1CN1CCC(CC1)CC(C1=CC=CC=C1)=O | C20H24N2O2
